US05075330
According to the procedure of Example 62, 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine is reacted with 1.0 eq of succinic anhydride in dioxane/water (2:1) in the presence of sodium acetate (2.5 eq). The reaction mixture is diluted with ethyl acetate and is washed with dilute aqueous HCl and then with water. The crude product is purified by recrystallization from methylene chloride. The compound is dissolved in a minimal amount of methanol, diluted with water and lyophylized to give pure 4-[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]-4-oxo-butanoic acid (44%); mp 134°-136° C.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | succinic anhydride | 1.0 eq | C1(CCC(=O)O1)=O | C4H4O3
reactant | sodium acetate | 2.5 eq | C(C)(=O)[O-].[Na+]
solvent | dioxane water | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]-4-oxo-butanoic acid | 44% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(CCC(=O)O)=O)O)C)C=C1 | C22H21ClN2O6
